US07030145B2
[3-(4-Bromobenzenesulfonyl)-6-methylpyridin-2-yl]-(2,4,6-trimethylphenyl)-amine, prepared as described in Example 46, (100 mg, 0.225 mmol), Pd(PPh3)2Cl2 (7.9 mg, 0.011 mmol), CuI (2.1 mg, 0.011 mmol) and trimethylsilylacetylene (0.038 mL, 0.270 mmol) were heated at 50° C. in Et3N (0.5 mL) for 16 h. The reaction mixture was stripped in vacuo and the residue was chromatographed on silica gel using 10% EtOAc/hexanes as eluent to give 53 mg [6-methyl-3-(4-trimethylsilanylethynyl-benzenesulfonyl)-pyridin-2-yl]-(2,4,6-trimethylphenyl)-amine.

reactant | [3-(4-Bromobenzenesulfonyl)-6-methylpyridin-2-yl]-(2,4,6-trimethylphenyl)-amine | BrC1=CC=C(C=C1)S(=O)(=O)C=1C(=NC(=CC1)C)NC1=C(C=C(C=C1C)C)C | C21H21BrN2O2S
reactant | trimethylsilylacetylene | 0.270 mmol, 0.038 mL | C[Si](C)(C)C#C | C5H10Si
solvent | Et3N | 0.5 mL | CCN(CC)CC | C6H15N
catalyst | Pd(PPh3)2Cl2 | 0.225 mmol, 100 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.011 mmol, 2.1 mg | [Cu]I
product | [6-methyl-3-(4-trimethylsilanylethynyl-benzenesulfonyl)-pyridin-2-yl]-(2,4,6-trimethylphenyl)-amine | 53 mg | CC1=CC=C(C(=N1)NC1=C(C=C(C=C1C)C)C)S(=O)(=O)C1=CC=C(C=C1)C#C[Si](C)(C)C | C26H30N2O2SSi
